US04824848
5-Butyl-7-(4-methoxybenzyl)-3-methylaminopyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A solution of 3-butyl-6-hydrazino-1-(4-methoxybenzyl)-uracil (2.0 g, 6.3 mM) and methyl isothiocyanate (1.36 ml, 20 mM) in DMF (20 ml) was stirred at 120° C. for 20 hours. To the solution was added ethanol (20 ml) and the mixture was cooled to give crude crystals. Recrystallization from DMF/ethanol gave colorless crystals (1.2 g, 53%), m.p. 292°-294° C.

reactant | 3-butyl-6-hydrazino-1-(4-methoxybenzyl)-uracil | 6.3 mM, 2.0 g | C(CCC)N1C(N(C(=CC1=O)NN)CC1=CC=C(C=C1)OC)=O | C16H22N4O3
reactant | methyl isothiocyanate | 20 mM, 1.36 ml | CN=C=S | C2H3NS
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-Butyl-7-(4-methoxybenzyl)-3-methylaminopyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 1.2 g, 53% | C(CCC)N1C(N(C2=C(C1=O)C(=NN2)NC)CC2=CC=C(C=C2)OC)=O | C18H23N5O3
